US07989624B2
Step A. 4-Nitro-1,3-dihydro-2H-indol-2-one
A mixture of 4-nitroindole (12.2 g, 75.2 mmol) and N-chlorosuccinimide (6.07 g, 30.1 mmol) in CHCl3 (500 mL) was heated at reflux for 30 h, then concentrated to dryness under reduced pressure. The residue was dissolved in AcOH (200 mL) and the resulting solution was warmed to 70° C., then 85% H3PO4 (80 mL) was added over 2 min. The mixture was heated to reflux for 90 min then cooled on ice. The cooled mixture was adjusted to pH 6 by addition of 10 N NaOH (450 mL), followed by aqueous NaHCO3, keeping the temperature below 30° C. The mixture was extracted with EtOAc (3×1 L) and the combined organic extracts were dried over Na2SO4, filtered, and concentrated in vacuo. The crude product was partially purified by silica gel chromatography, eluting with a gradient of hexane:EtOAc-100:0 to 0:100, and then triturated with MeOH to give the title compound. MS: m/z=179 (M+1).

reactant | 4-nitroindole | 75.2 mmol, 12.2 g | [N+](=O)([O-])C1=C2C=CNC2=CC=C1 | C8H6N2O2
reactant | N-chlorosuccinimide | 30.1 mmol, 6.07 g | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | CHCl3 | 500 mL | C(Cl)(Cl)Cl | CHCl3
product | 4-Nitro-1,3-dihydro-2H-indol-2-one | [N+](=O)([O-])C1=C2CC(NC2=CC=C1)=O | C8H6N2O3
